US06310095B1
N--t-Butoxycarbonyl-N-butyl-O-benzylhydroxylamine
To a stirred solution at 0° C. of N--t-Butoxycarbonyl-O-benzylhydroxylamine, prepared as in Example 1175A, in anhydrous THF was added portionwise a 60% dispersion of sodium hydride (1.2 equiv.) in mineral oil. Mixture stirred 30 minutes ar 0° C., and then, 1-iodobutane (1.2 equiv.) was added dropwise. Reaction stirred one hour at 0° C., and than, overnight at room temperature. Reaction concentrated in vacuo. Residue taken up in EtOAc and washed with water, 1.0M NaHCO3, 1N H3PO4, and brine. Organic layer dried with Na2SO4, filtered, and evaporated.

reactant | N--t-Butoxycarbonyl-O-benzylhydroxylamine | C(C)(C)(C)OC(=O)NOCC1=CC=CC=C1 | C12H17NO3
reactant | sodium hydride | 1.2 equiv. | [H-].[Na+]
reactant | 1-iodobutane | 1.2 equiv. | ICCCC | C4H9I
solvent | THF | C1CCOC1 | C4H8O
product | N--t-Butoxycarbonyl-N-butyl-O-benzylhydroxylamine | C(C)(C)(C)OC(=O)N(OCC1=CC=CC=C1)CCCC | C16H25NO3
